* C:\Users\rsmalec\AppData\Local\LTspice\LTspice-circuits\Colpitts_oscillator_1.asc
L1 N003 N004 10m
C1 N003 0 100µ
C2 0 N004 100µ
R1 N002 N004 1k
R2 N001 N002 100
Q1 N002 N003 0 0 2N2222
V1 N001 0 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\rsmalec\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 200m 0 1u
.backanno
.end
